US06821927B1
2-(2-{[6-(2-Chlorophenoxy)-5-fluoro-4-pyrimidinyl]oxy} phenyl)-N-hydroxy-2-(methoxyimino)-acetamide
1.4 g (0.014 mol) of triethylamine are initially added to a mixture of 0.8 g (0.012 mol) of hydroxylamine hydrochloride in 20 ml of tetrahydrofuran, the mixture is cooled to 0° C., and at this temperature, a solution of 1 g (0.0023 mol) of 2-{2-[6-(2-chlorophenoxy)-5-fluoro-pyrimidin-4-yloxy]-phenyl}-2-methoxyiminoacetyl chloride in 10 ml of tetrahydrofuran is then added dropwise. Without further cooling, stirring is continued for 18 hours. The reaction mixture is poured into 100 ml of 1 N hydrochloric acid and extracted 3 times with in each case 100 ml of ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica gel using cyclohexane/ethyl acetate (4:1). This gives 0.3 g (30% of theory) of 2-(2-{[6-(2-chlorophenoxy)-5-fluoro-4-pyrimidinyl]oxy} phenyl)-N-hydroxy-2-(methoxyimino)-acetamide.

reactant | triethylamine | 0.014 mol, 1.4 g | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 0.012 mol, 0.8 g | Cl.NO
reactant | 2-{2-[6-(2-chlorophenoxy)-5-fluoro-pyrimidin-4-yloxy]-phenyl}-2-methoxyiminoacetyl chloride | 0.0023 mol, 1 g | ClC1=C(OC2=C(C(=NC=N2)OC2=C(C=CC=C2)C(C(=O)Cl)=NOC)F)C=CC=C1 | C19H12Cl2FN3O4
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2-{[6-(2-Chlorophenoxy)-5-fluoro-4-pyrimidinyl]oxy} phenyl)-N-hydroxy-2-(methoxyimino)-acetamide | ClC1=C(OC2=C(C(=NC=N2)OC2=C(C=CC=C2)C(C(=O)NO)=NOC)F)C=CC=C1 | C19H14ClFN4O5
